US05536718
6-[(2-Biphenylcarbonyl)amino]pyridine-3-carboxylic acid
To a chilled (0° C.) mixture of 6.0 g of methyl 6-[[bis(2-biphenylcarbonyl)]amino]pyridine-3-carboxylate in 40 ml of methanol and 30 ml of tetrahydrofuran is added slowly 18 ml of 2N NaOH. The mixture is stirred at room temperature overnight and brought to pH 5 with glacial acetic acid. The mixture is concentrated, acidified to pH 2-3 with 1N HCl and extracted with 250 ml of ethyl acetate. The extract is washed with 50 ml of brine, dried (Na2SO4) and the solvent removed under vacuum. The residual white solid is triturated with 15 ml of ethyl acetate to give 3.35 g of white crystals, m.p. 215°-217° C.

reactant | methyl 6-[[bis(2-biphenylcarbonyl)]amino]pyridine-3-carboxylate | 6.0 g | C=1(C(=CC=CC1)C(=O)N(C1=CC=C(C=N1)C(=O)OC)C(=O)C=1C(=CC=CC1)C1=CC=CC=C1)C1=CC=CC=C1 | C33H24N2O4
reactant | NaOH | 2N, 18 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 6-[(2-Biphenylcarbonyl)amino]pyridine-3-carboxylic acid | 3.35 g | C=1(C(=CC=CC1)C(=O)NC1=CC=C(C=N1)C(=O)O)C1=CC=CC=C1 | C19H14N2O3
